US07700655B2
(2) 2-Methoxy-4-phenylbenzoic acid
2N Aqueous sodium hydroxide (5 mL) was added to a solution of methyl 2-methoxy-4-phenylbenzoate (410 mg, 1.69 mmol) in methanol (5 mL), and the mixture was refluxed for 1 hour. After the reaction mixture was cooled to room temperature, the solvent was evaporated under reduced pressure. 2N hydrochloric acid was added to the obtained residue and the separated crystal was filtered to give the title compound (371 mg, 96.0%) as a crude product.

reactant | sodium hydroxide | 2N, 5 mL | [OH-].[Na+]
reactant | methyl 2-methoxy-4-phenylbenzoate | 1.69 mmol, 410 mg | COC1=C(C(=O)OC)C=CC(=C1)C1=CC=CC=C1 | C15H14O3
solvent | methanol | 5 mL | CO | CH4O
product | 2-Methoxy-4-phenylbenzoic acid | 371 mg, 96.0% | COC1=C(C(=O)O)C=CC(=C1)C1=CC=CC=C1 | C14H12O3
